US07074777B2
(2) 1α,3β-dihydroxy-17β-(3-hydroxy-3-methylbutoxymethyl)androsta-5,7-diene
To 1α,3β-bis(tert-butyldimethylsilyloxy)-17β-(3-hydroxy-3-methylbutoxymethyl)androsta-5,7-diene (700 mg), was added a 1M tetra-n-butylammonium fluoride tetrahydrofuran solution (20 ml), followed by reaction for 6 hours. After adding ethyl acetate, the reaction mixture was washed with saturated brine, a saturated aqueous sodium bicarbonate solution and saturated brine. The organic layer was dried over anhydrous magnesium sulfate, evaporated under reduced pressure to remove the solvent and the resulting residue was purified by column chromatography (dichloromethane: methanol=9:1) to give the titled compound (0.41 g).

reactant | 1α,3β-bis(tert-butyldimethylsilyloxy)-17β-(3-hydroxy-3-methylbutoxymethyl)androsta-5,7-diene | 700 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@@]12C)COCCC(C)(C)O)O[Si](C)(C)C(C)(C)C | C37H68O4Si2
reactant | tetra-n-butylammonium fluoride tetrahydrofuran | 1M, 20 ml | O1CCCC1.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1α,3β-dihydroxy-17β-(3-hydroxy-3-methylbutoxymethyl)androsta-5,7-diene | 0.41 g | O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@@]12C)COCCC(C)(C)O)O | C25H40O4
